Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
___ Colonoscopy

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ year old female with history of arthritis, HLD, and anxiety
presenting after an episode of BRBPR. Patient was out to dinner
at a restaurant when she felt cramping and went to the bathroom.
She passed a large volume of blood as well as some large clots.
She felt that she was going to pass out and was found
pale/diaphoretic and weak. EMS was called. She was found to be
hypotensive and tachycardic. This persisted to presentation and
on arrival at the hospital she was having ongoing 
lightheadedness
and diaphoresis. Patient denies any significant abdominal pain,
chest pain, shortness of breath. No prior history of GI 
bleeding.
She does report a family history of colon cancer. The patient 
has
had 2 prior colonoscopies and has had some polyps removed but
they were benign. She notes being constipated over the last few
days but has otherwise been in good health.

In the ED:
- Initial vital signs were notable for HR 100 BP 92/60  
- Labs were notable for:
Lactate 2.5, WBC 11.9
- Patient was given: 1L NS
- Consults:
GI: no plan for endoscopy, will see in the AM. Recommended
adequate access, type and hold, colonoscopy to be considered at
the earliest on ___ and CTA angio for any rapid unstable
bleed.

Vitals on transfer: T 98.4 HR 83 BP 116/73 RR 18 O2 sat 100% Ra 
 
Upon arrival to the floor, she is feeling much better without 
any
complaints.

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
PAST MEDICAL HISTORY:
Anxiety
HLD
?rheumatoid arthritis
Eczema
GERD
Migraines

 
Social History:
___
Family History:
mother - lung cancer
grandmother - colon cancer in ___
father - prostate cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS:T 98.4 BP 116/73 HR 83 RR 18 O2 sat 100 Ra 
GENERAL: Alert and interactive. In no acute distress.
EYES: Sclera anicteric and without injection. 
ENT: MMM. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
MSK: No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM:
=======================
___ 0636 Temp: 98.4 PO BP: 108/70 L Lying HR: 97 RR: 18
O2 sat: 99% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
EYES: Sclera anicteric and without injection. 
ENT: MMM. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, tender to deep
palpation in right lower quadrant without rebound or guarding
MSK: No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
PSYCH: appropriate mood and affect

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:34PM BLOOD WBC-11.9* RBC-4.06 Hgb-12.3 Hct-37.7 
MCV-93 MCH-30.3 MCHC-32.6 RDW-12.6 RDWSD-42.8 Plt ___
___ 08:34PM BLOOD Neuts-64.1 ___ Monos-7.3 Eos-0.8* 
Baso-0.9 Im ___ AbsNeut-7.59* AbsLymp-3.13 AbsMono-0.86* 
AbsEos-0.10 AbsBaso-0.11*
___ 08:34PM BLOOD ___ PTT-23.4* ___
___ 08:34PM BLOOD Glucose-156* UreaN-16 Creat-1.1 Na-140 
K-5.5* Cl-102 HCO3-22 AnGap-16
___ 06:50AM BLOOD Calcium-8.8 Phos-4.1 Mg-2.0
___ 08:49PM BLOOD Lactate-2.5* K-4.4

DISCHARGE LABS
==============
___ 05:46AM BLOOD WBC-4.6 RBC-3.41* Hgb-10.4* Hct-31.7* 
MCV-93 MCH-30.5 MCHC-32.8 RDW-12.9 RDWSD-43.7 Plt ___
___ 05:46AM BLOOD Glucose-87 UreaN-6 Creat-0.8 Na-147 K-4.3 
Cl-108 HCO3-27 AnGap-12
___ 05:46AM BLOOD Calcium-9.1 Phos-3.6 Mg-1.9

PROCEDURES:
===========
Colonoscopy ___: Polyp 3mm in ascending colon (polypectomy), 
normal mucosa in the colon, moderate diverticulosis of the 
ascending, descending, and rectosigmoid. 

 
Brief Hospital Course:
PATIENT SUMMARY
===============
Mrs. ___ is a ___ year old female with history of arthritis, 
HLD, and anxiety presenting with acute onset who presented with 
bright red blood per rectum and hypotension requiring IV fluid 
resuscitation in the ED admitted for further workup and 
management. Her H/H remained stable and remianed hemodynamically 
stable after initial IVF resuscitation. Colonoscopy performed 
___ showed non-bleeding diverticula. After her procedure she 
was able to advance to a regular diet without any issues and was 
ready to be discharged home with plans for follow up with her 
PCP and GI physician. 

TRANSITIONAL ISSUES
===================
[ ] 3mm polypectomy performed during colonoscopy. Benign 
appearance. Recommend repeat colonoscopy in ___ years pending 
pathology. 
[ ] Discharge Hgb 10.4. Recommend repeat CBC to ensure 
stability. 

#CODE: Full (presumed)
#CONTACT: ___ (daughter) ___

ACUTE ISSUES
============
#BRBPR
#Diverticulosis 
Initially presented to the ED after passing bright red blood per 
rectum with clots at a restaurant in ___. Found to be 
diaphoretic and hypotensive which responded to fluids. 
Hemoglobin was 12.3 on admission, nadired to 9.6. She did not 
require pRBC transfusions. She remained HDS throughout her 
admission. She underwent colonscopy on ___ which showed 
non-bleeding diverticula and a 3mm benign appearing polyp that 
was removed. Hgb on discharge was 10.4. 

CHRONIC ISSUES
==============
# Rheumatoid arthritis
Home plaquenil was continued during this admission

# Hyperlipidemia
Home simvastatin was continued during this admission. 

# GERD
Home omeprazole was continued during this admission. 

# Eczema
Home dupixent was not administered during this admission as is a 
weekly injection. 

# Anxiety
Continued home lexapro
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sharobel (norethindrone (contraceptive)) 0.35 mg oral DAILY 
2. TraZODone 50 mg PO QHS 
3. Simvastatin 20 mg PO QPM 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. Omeprazole Dose is Unknown  PO DAILY 
7. Culturelle (Lactobacillus rhamnosus GG) 10 billion cell oral 
DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Restasis 0.05 % ophthalmic (eye) BID 
11. Sumatriptan Succinate 50 mg PO DAILY:PRN migraine 
12. Dupixent (dupilumab) 300 mg/2 mL subcutaneous q2weeks 
13. Vitamin D Dose is Unknown  PO DAILY 
14. Ascorbic Acid Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  
3.  Vitamin D 400 UNIT PO DAILY  
4.  Cetirizine 10 mg PO DAILY  
5.  Culturelle (Lactobacillus rhamnosus GG) 10 billion cell oral 
DAILY  
6.  Dupixent (dupilumab) 300 mg/2 mL subcutaneous q2weeks  
7.  Escitalopram Oxalate 20 mg PO DAILY  
8.  Hydroxychloroquine Sulfate 200 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Restasis 0.05 % ophthalmic (eye) BID  
11.  Sharobel (norethindrone (contraceptive)) 0.35 mg oral DAILY 
 
12.  Simvastatin 20 mg PO QPM  
13.  Sumatriptan Succinate 50 mg PO DAILY:PRN migraine  
14.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Lower Gastrointestinal Bleed

SECONDARY DIAGNOSIS
===================
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital after having a bleed from 
you gastrointestinal tract.    

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- Your blood counts were monitored and remained stable. 
- You had a colonoscopy to evaluate for a source of your bleed. 
- Your colonoscopy showed you have a condition called 
diverticulosis and a small polyp was removed, however there was 
no active bleeding found during the procedure.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please take your colonoscopy report to your primary care and 
gastrointestinal doctor appointments. 
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___